US04229348
A solution of triethylamine (6.04 g) in anhydrous dichloromethane (20 ml) was added dropwise at room temperature to a solution of N-methyl-3,4-diacetoxybenzamide (15.0 g) and trimethylsilyl chloride (6.49 g) in anhydrous dichloromethane (70 ml). After the mixture was refluxed for 20 minutes, a solution of phosgene (42 ml) in anhydrous dichloromethane (82 ml) was added to the mixture at a temperature of from -5° to 5° C. by allowing its temperature to gradually rise to room temperature. Excess phosgene and the solvent used were evaporated to dryness under reduced pressure to give crude N-(3,4-diacetoxybenzoyl)-N-methylcarbamoyl chloride. The product was dissolved in cold anhydrous dichloromethane (50 ml) and, after removing insoluble substances by filtration, made available for the subsequent reaction.

reactant | triethylamine | 6.04 g | C(C)N(CC)CC | C6H15N
reactant | N-methyl-3,4-diacetoxybenzamide | 15.0 g | CNC(C1=CC(=C(C=C1)OC(C)=O)OC(C)=O)=O | C12H13NO5
reactant | trimethylsilyl chloride | 6.49 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | phosgene | 42 ml | C(=O)(Cl)Cl | CCl2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 82 ml | ClCCl | CH2Cl2
product | N-(3,4-diacetoxybenzoyl)-N-methylcarbamoyl chloride | C(C)(=O)OC=1C=C(C(=O)N(C(=O)Cl)C)C=CC1OC(C)=O | C13H12ClNO6
